US07279580B2
2-[3-(3-Chloro-4-fluorophenyl)-8-fluoroimidazo[1,2-α]pyridin-7-yl]-propan-2-ol and 2,4-difluorobenzeneboronic acid were coupled in the same way as in Example 30 to give 2-[8-fluoro-3-(2,2′,4′-trifluorobiphenyl-5-yl)-imidazo[1,2-α]pyridin-7-yl]propan-2-ol as an off-white solid (3 mg, 2%): δH (400 MHz, d6-DMSO) 1.56 (6H, s), 7.18-7.23 (2H, m), 7.34 (1H, t, J 8), 7.51 (1H, t, J 9), 7.61-7.69 (2H, m), 7.73-7.77 (2H, m), 8.36 (1H, dd, J 7 and 3); m/z (ES+) 401 [MH+].

reactant | 2-[3-(3-Chloro-4-fluorophenyl)-8-fluoroimidazo[1,2-α]pyridin-7-yl]-propan-2-ol | ClC=1C=C(C=CC1F)C1=CN=C2N1C=CC(=C2F)C(C)(C)O | C16H13ClF2N2O
reactant | 2,4-difluorobenzeneboronic acid | FC1=C(C=CC(=C1)F)B(O)O | C6H5BF2O2
product | 2-[8-fluoro-3-(2,2′,4′-trifluorobiphenyl-5-yl)-imidazo[1,2-α]pyridin-7-yl]propan-2-ol | 3 mg, 2% | FC=1C=2N(C=CC1C(C)(C)O)C(=CN2)C=2C=CC(=C(C2)C2=C(C=C(C=C2)F)F)F | C22H16F4N2O
